US07384945B2
Step 2: Resin Bound 2-Phenoxymethyl-1H-indole-5-carboxylic acid methyl ester
Resin bound 4-amino-3-iodo-benzoic acid methyl ester was suspended in DMF and treated with 15.6 g of phenyl propargylether, 60 ml of triethylamine and catalytic amounts of Cul and bis(triphenylphosphine)palladium(II) chloride. The resin was shaken for 6 h at 50° C. and washed subsequently with DMF, isopropanol/water and diethylether.

reactant | 4-amino-3-iodo-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)N)I)=O | C8H8INO2
reactant | phenyl propargylether | 15.6 g | C1(=CC=CC=C1)OCC#C | C9H8O
reactant | triethylamine | 60 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Phenoxymethyl-1H-indole-5-carboxylic acid methyl ester | COC(=O)C=1C=C2C=C(NC2=CC1)COC1=CC=CC=C1 | C17H15NO3
